US07825132B2
A. Synthesis of 5-(4-Methyl-piperazin-1-yl)-2-nitroaniline Procedure A
5-Chloro-2-nitroaniline (500 g, 2.898 mol) and 1-methyl piperazine (871 g, 8.693 mol) were placed in a 2000 mL flask fitted with a condenser and purged with N2. The flask was placed in an oil bath at 100° C. and heated until the 5-chloro-2-nitroaniline was completely reacted (typically overnight) as determined by HPLC. After HPLC confirmed the disappearance of the 5-chloro-2-nitroaniline, the reaction mixture was poured directly (still warm) into 2500 mL of room temperature water with mechanical stirring. The resulting mixture was stirred until it reached room temperature and then it was filtered. The yellow solid thus obtained was added to 1000 mL of water and stirred for 30 minutes. The resulting mixture was filtered, and the resulting solid was washed with TBME (500 mL, 2×) and then was dried under vacuum for one hour using a rubber dam. The resulting solid was transferred to a drying tray and dried in a vacuum oven at 50° C. to a constant weight to yield 670 g (97.8%) of the title compound as a yellow powder.

reactant | 5-Chloro-2-nitroaniline | 2.898 mol, 500 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 1-methyl piperazine | 8.693 mol, 871 g | CN1CCNCC1 | C5H12N2
solvent | water | 1000 mL | O | H2O
product | 5-(4-Methyl-piperazin-1-yl)-2-nitroaniline | 670 g, 97.8% | CN1CCN(CC1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C11H16N4O2
